US04663373
Trimethyl mono(N,N-dibenzylaminoxy)silane
A suspension of 15.93 g of dibenzylhydroxylamine in 100 ml of acetonitrile is admixed with 25.0 g of bis(trimethylsilyl)trifluoroacetamide with stirring. The mixture is heated at 80° C. under nitrogen for 30 minutes, and then cooled to room temperature and stirred for 8 hours. The solvent is removed under reduced pressure and the residue is distilled to afford the title compound as a colorless liquid.

reactant | dibenzylhydroxylamine | 15.93 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | bis(trimethylsilyl)trifluoroacetamide | 25.0 g | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Trimethyl mono(N,N-dibenzylaminoxy)silane | C[Si](ON(CC1=CC=CC=C1)CC1=CC=CC=C1)(C)C | C17H23NOSi
